US07714126B2
Amino-acetic acid methyl ester (5 g, 40 mmol) was suspended in DMF and treated with triethylamine (13.9 mL, 100 mmol) and 2-chloro-benzoyl chloride (5 mL, 40 mmol). The reaction mixture was stirred at room temperature overnight. Water was added to the reaction, and the mixture was extracted with ethyl acetate three times. The organic layers were combined and dried over sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography using ethyl acetate/hexane to yield (2-chloro-benzoylamino)-acetic acid methyl ester as a light yellow solid. LCMS calcd for C10H10ClNO3 (m/e) 227, obsd 228 (M+H).

reactant | Amino-acetic acid methyl ester | 40 mmol, 5 g | COC(CN)=O | C3H7NO2
reactant | triethylamine | 100 mmol, 13.9 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-benzoyl chloride | 40 mmol, 5 mL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (2-chloro-benzoylamino)-acetic acid methyl ester | COC(CNC(C1=C(C=CC=C1)Cl)=O)=O | C10H10ClNO3
